US06774241B2
Step 1: Synthesis of 2-(1-benzenesulfonyl-1H-indol-4-yloxy)ethyl dimethylamine hydrochloride salt
To a mixture of 2-(1H-indol-4-yloxy)ethyl dimethylamine (0.300 g, 0.0015 mol), tetrabutylammonium hydrogen sulfate (0.025 g, 0.000073 mol) and finely ground sodium hydroxide (0.065 g, 0.0016 mol) in 20 mL of CH2Cl2 at 0° C. was added benzenesulfonyl chloride (0.286 g, 0.0016 mol). After 18 hours stirring at ambient temperature, the reaction mixture was diluted with 40 mL of CH2Cl2 and washed sequentially with water (2×20 mL) and an aqueous K2CO3 solution (2 M, 20 mL). The aqueous layers were combined and extracted with CH2Cl2 (2×20 mL). The organic fractions were combined, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (10:89.9:0.1 methanol/ethyl acetate/ammonium hydroxide) and the resulting oil was dissolved in boiling 10% ethanolic HCl (3 mL). From this solution, 2-(1-benzenesulfonyl-1H-indol-4-yloxy)ethyl dimethylamine hydrochloride salt was crystallized as a fine pink crystal (0.150 mg, 26%). MS: (M+H)+=345, mp 136-140° C.

reactant | 2-(1H-indol-4-yloxy)ethyl dimethylamine | 0.0015 mol, 0.300 g | N1C=CC2=C(C=CC=C12)OCCN(C)C | C12H16N2O
reactant | sodium hydroxide | 0.0016 mol, 0.065 g | [OH-].[Na+]
reactant | benzenesulfonyl chloride | 0.0016 mol, 0.286 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
catalyst | tetrabutylammonium hydrogen sulfate | 0.000073 mol, 0.025 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-benzenesulfonyl-1H-indol-4-yloxy)ethyl dimethylamine hydrochloride salt | Cl.C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OCCN(C)C | InChI=1S/C18H20N2O3S.ClH/c1-19(2)13-14-23-18-10-6-9-17-16(18)11-12-20(17)24(21,22)15-7-4-3-5-8-15;/h3-12H,13-14H2,1-2H3;1H
